US04183856
Using 3-amino-5-t-butylisoxazole and N-ethyl-N-methylcarbamoyl chloride, the reaction is carried out as in Example 1, whereby 1-ethyl-1-methyl-3-(5-t-butyl-3-isoxazolyl)urea is obtained. Yield is 96.1%. Melting point is 88.5° to 89.5° C.

reactant | 3-amino-5-t-butylisoxazole | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | N-ethyl-N-methylcarbamoyl chloride | C(C)N(C(=O)Cl)C | C4H8ClNO
product | 1-ethyl-1-methyl-3-(5-t-butyl-3-isoxazolyl)urea | Yield is 96.1% | C(C)N(C(=O)NC1=NOC(=C1)C(C)(C)C)C | C11H19N3O2
